US05641778
The 2-(4-methoxybutoxy)-4-(piperidin-1-ylmethyl)-benzoic acid methyl ester that is used is prepared in a manner analogous to that described in Example 30 An) from 2-(4-methoxybutoxy)-4-methyl-benzoic acid methyl ester and piperidine, with subsequent purification of the crude product by FC (eluants C and M): brown oil, Rf (N)=0.34.

reactant | 2-(4-methoxybutoxy)-4-methyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C)OCCCCOC)=O | C14H20O4
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-(4-methoxybutoxy)-4-(piperidin-1-ylmethyl)-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)CN1CCCCC1)OCCCCOC)=O | C19H29NO4
